US06794395B1
6-carboxymethylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone
180 mg of 6-methoxycarbonylmethylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone are placed in 10 ml of methanol, 1.0 ml of 1N sodium hydroxide solution are added and the mixture is stirred for 1 hour at 40° C. After cooling it is neutralised with 1.0 ml of 1N hydrochloric acid and the solvent is eliminated. The residue is dissolved in methylene chloride and a little methanol and dried over sodium sulphate.

reactant | 6-methoxycarbonylmethylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | 180 mg | COC(=O)CNC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C30H32N4O3
reactant | sodium hydroxide | 1N, 1.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.0 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-carboxymethylamino-3-(Z)-{1-[4-(piperidin-1-yl-methyl)-anilino]-1-phenyl-methylidene}-2-indolinone | C(=O)(O)CNC1=CC=C2/C(/C(NC2=C1)=O)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)CN1CCCCC1 | C29H30N4O3
